US08633186B2
(E)-2-amino-6-(3-methoxyprop-1-enyl)benzonitrile
To a solution of 2-amino-6-bromobenzonitrile (1.0 g, 5.0 mmol), (E)-2-(3-methoxypropenyl)-4,4,5,5-tetramethyl-(1,3,2)-dioxaboroane (1.2 g, 6.0 mmol), and K2CO3 (1.38 g, 10.0 mmol) in DME/H2O (4:1, 20 mL) was added Pd(PPh3)4 (289 mg) at room temperature under nitrogen. The reaction mixture was warmed to 85° C. and stirred at that temperature under nitrogen overnight. After it was cooled down to room temperature, the reaction solution was diluted with EtOAc, washed with brine (2×), and dried over Na2SO4. After removal of the solvent, the residue was purified by chromatography on silica gel eluting with 30% EtOAc in hexanes to give the title compound as a pale-yellow solid. 1H NMR (400 MHz, CDCl3) δ 3.40 (s, 3H), 4.12 (dd, J=6.0, 1.8 Hz, 2H), 4.42 (s, 2H), 6.42 (dt, J=16.0, 5.8 Hz, 1H), 6.63 (d, J=8.0 Hz, 1H), 6.85 (d, J=16.0 Hz, 1H), 6.93 (d, J=8.0 Hz, 1H), 7.26 (t, J=8.0 Hz, 1H). 13C NMR (CDCl3) δ 58.2, 72.7, 95.4, 113.6, 115.0, 116.6, 128.5, 130.9, 133.4, 140.3, 150.1. MS 189 (MH+).

reactant | 2-amino-6-bromobenzonitrile | 5.0 mmol, 1.0 g | NC1=C(C#N)C(=CC=C1)Br | C7H5BrN2
reactant | (E)-2-(3-methoxypropenyl)-4,4,5,5-tetramethyl-(1,3,2)-dioxaboroane | 6.0 mmol, 1.2 g | B1(OC(C(O1)(C)C)(C)C)/C=C/COC | C10H19BO3
reactant | K2CO3 | 10.0 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME H2O | 20 mL | COCCOC.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 289 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-2-amino-6-(3-methoxyprop-1-enyl)benzonitrile | NC1=C(C#N)C(=CC=C1)\C=C\COC | C11H12N2O
